US04189484
2-[4-(4-Isopropylcinnamoyl)-piperazin-1-yl]-4-amino-6,7-dimethoxyquinazolin
To a mixture of 342 mg. of 4-isopropylcinnamic acid and 727 mg. of triethylamine in 20 ml. of acetone were added dropwise under ice-cooling 195 mg. of ethyl chlorocarbonate and the resulting mixture was stirred for 3.5 hours. Then, 543 mg. of 2-(piperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline.hydrochloride were added thereto and stirring was continued at room temperature overnight. Then, the acetone was distilled off, the residue was dissolved in 20 ml. of 10% K2CO3 and extracted with ethyl acetate. After drying over magnesium sulfate, the extract was concentrated and recrystallization from methanol gave 361 mg. of the desired product.

reactant | 4-isopropylcinnamic acid | C(C)(C)C1=CC=C(C=CC(=O)O)C=C1 | C12H14O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-(piperazin-1-yl)-4-amino-6,7-dimethoxyquinazoline.hydrochloride | Cl.N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC
solvent | acetone | CC(=O)C | C3H6O
product | 2-[4-(4-Isopropylcinnamoyl)-piperazin-1-yl]-4-amino-6,7-dimethoxyquinazolin | C(C)(C)C1=CC=C(C=CC(=O)N2CCN(CC2)C2=NC3=CC(=C(C=C3C(=N2)N)OC)OC)C=C1 | C26H31N5O3
